US08258160B2
To a solution of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide (0.50 g, 2.02 mmol) in acetonitrile (50 mL) was added copper cyanide (0.36 g, 4.04 mmol) and isoamyl nitrite (0.54 mL, 4.04 mmol). The reaction mixture was heated to reflux for 1 hour, cooled to ambient temperature, diluted with ethyl acetate and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography to afford N-benzyl-2-cyano-4-methylthiazole-5-carboxamide in 29% yield (0.15 g): 1H NMR (300 MHz, CDCl3) δ 7.48-7.18 (m, 5H), 6.87 (br s, 1H), 4.49 (d, J=5.8 Hz, 2H), 2.69 (s, 3H).

reactant | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | 2.02 mmol, 0.50 g | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
reactant | copper cyanide | 4.04 mmol, 0.36 g | [Cu](C#N)C#N
reactant | isoamyl nitrite | 4.04 mmol, 0.54 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyl-2-cyano-4-methylthiazole-5-carboxamide | 29% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C#N)C | C13H11N3OS
